US04206234
A solution of p-(2-tetrahydropyranyloxy)phenyl magnesium bromide was prepared in the usual manner from magnesium (1.65 g.) and p-(2-tetrahydropyranyloxy)phenyl bromide (8.48 g.) in a mixture of dry ether (30 ml.) and dry tetrahydrofuran (30 ml.). To this solution was added a solution of 4-(β-dimethylaminoethoxy)-α-ethyldesoxybenzoin (9.33 g.) in ether (50 ml.). The mixture was heated under reflux for 2 hours, cooled and decomposed by the addition of saturated ammonium chloride solution. The organic layer was separated, and the aqueous layer was extracted with ether. The extract was combined with the organic layer, dried and evaporated to give 1-(p-β-dimethylaminoethoxyphenyl)-1-[p-(2-tetrahydropyranyloxy)phenyl]-2-phenylbutan-1-ol as an oil used without further purification.

reactant | magnesium | 1.65 g | [Mg] | Mg
reactant | p-(2-tetrahydropyranyloxy)phenyl bromide | 8.48 g | O1C(CCCC1)OC1=CC=C(C=C1)Br | C11H13BrO2
reactant | 4-(β-dimethylaminoethoxy)-α-ethyldesoxybenzoin | 9.33 g | CN(CCOC1=CC=C(C=C1)C(=O)C(C1=CC=CC=C1)CC)C | C20H25NO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
product | p-(2-tetrahydropyranyloxy)phenyl magnesium bromide | O1C(CCCC1)OC1=CC=C(C=C1)[Mg]Br | InChI=1S/C11H13O2.BrH.Mg/c1-2-6-10(7-3-1)13-11-8-4-5-9-12-11;;/h2-3,6-7,11H,4-5,8-9H2;1H;/q;;+1/p-1
